US04001339
In a 1.0 liter four-necked flask fitted with a reflux condenser a mechanical stirrer, dropping funnel and a gas inlet tube is placed 50 ml of dry tetrahydrofurane and 1.5 g NaH (prepared from 50% suspension through washing with tetrahydrofuran). 7.5g of p-ethylphenol in 50 ml of tetrahydrofuran is then added dropwise with stirring while a nitrogen atmosphere is maintained in the flask. The mixture is stirred until solution of NaH is complet, and 13.0 g. 1-bromo-6,7-epoxy-3,7-dimethyloctane in 20 ml hexamethylphosphoric triamide is added dropwise and with stirring. The resulting mixture is boiled under reflux, with stirring for 3 hours. After the addition of 1.0 liter of water the mixture is extracted with 0.5 liters of hexane and hexane extract is dried over sodium sulfate, filtered and concentrated in vacuo with water aspirator. The product was chromatographed on silica gel, fractions eluted with a mixture hexane-ethyl-acetate (9:1 parts by volume) afforded 6,7-Epoxy-1-(1-ethylphenoxy)-3,7-dimethyl-octane nD24 - 1,4973.

reactant | NaH | 1.5 g | [H-].[Na+]
reactant | p-ethylphenol | 7.5g | C(C)C1=CC=C(C=C1)O | C8H10O
reactant | 1-bromo-6,7-epoxy-3,7-dimethyloctane | BrCCC(CCC1C(C)(C)O1)C | C10H19BrO
reactant | water | 1.0 liter | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 20 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | 6,7-Epoxy-1-(1-ethylphenoxy)-3,7-dimethyl-octane | O1C(CCC(CCOC2(CC=CC=C2)CC)C)C1(C)C | C18H30O2
